US08012956B2
Methyl 4-aminocarbonyl-5-(isopropylamino)-2-methylbenzoate (202 mg, 0.81 mmol) was dissolved in methanol (3 mL) and was treated with 1M sodium hydroxide (3 mL, 3 mmol) at 45° C. for 1.5 h. The reaction mixture was cooled to ambient temperature and was concentrated to afford an aqueous residue that was acidified with 1N hydrochloric acid to pH 3. The precipitate was collected by filtration, washed with water and dried to afford 4-aminocarbonyl-5-(isopropylamino)-2-methylbenzoic acid (99.5 mg, 0.42 mmol, 52% yield). 1H NMR (400 MHz, d6-DMSO): δ 12.95 (br s, 1H), 7.90 (br s, 1H), 7.72 (d, 1H), 7.49 (s, 1H), 7.28 (br s, 1H), 7.06 (s, 1H), 3.64-3.54 (m, 1H), 2.33 (s, 3H), 1.15 (s, 3H), 1.14 (s, 3H); MS (EI) for C12H16N2O3: 237 (MH+).

reactant | Methyl 4-aminocarbonyl-5-(isopropylamino)-2-methylbenzoate | 0.81 mmol, 202 mg | NC(=O)C1=CC(=C(C(=O)OC)C=C1NC(C)C)C | C13H18N2O3
reactant | sodium hydroxide | 3 mmol, 1M, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
product | 4-aminocarbonyl-5-(isopropylamino)-2-methylbenzoic acid | 0.42 mmol, 99.5 mg, 52% yield | NC(=O)C1=CC(=C(C(=O)O)C=C1NC(C)C)C | C12H16N2O3
